US07186729B2
Step 2: 2-(4-Chloro-phenyl)-N-piperidin-4-yl-acetamide
A solution of 4-[2-(4-chloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.55 g, 1.54 mmol) in dichloromethane (8.0 mL) cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The crude product was purified on silica using gradient elution from ethyl acetate/methanol (2%) to ethyl acetate/methanol (20%). 1H-NMR (CDCL3) δ: 1.15–1.25 (2H, m), 1.80–1.90 (2H, m), 2.60–2.75 (2H, m), 2.90–3.10 (2H, m), 3.5 (2H, s), 3.85 (1H, m), 5.20 (1H, d), 7.15–7.35 (4H, m). ESI-MS m/z: 253 (M+1), UV retention time: 0.87 min.

reactant | 4-[2-(4-chloro-phenyl)-acetylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.54 mmol, 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(CC1=CC=C(C=C1)Cl)=O | C18H25ClN2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | 2-(4-Chloro-phenyl)-N-piperidin-4-yl-acetamide | ClC1=CC=C(C=C1)CC(=O)NC1CCNCC1 | C13H17ClN2O
